US08648200B2
2-(Difluoromethyl)-5-{[(2-methylpropanoyl)amino]methyl}-N-{4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}pyridine-3-carboxamide
In a thermally controlled reactor stir a mixture of 4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-amine (395 g, 1.63 mol, 1 equiv), 2-(difluoromethyl)-5-{[(2-methylpropanoyl)amino]methyl}pyridine-3-carboxylic acid (445.8 g, 1.63 mol, 1 equiv), DMF (3.16 L), DIPEA (856 ml, 4.91 mol, 3 equiv) and TBTU (630 g, 1.965 mol, 1.2 equiv) at an internal temperature of 75° C. for 18 hours. Cool the mixture; dilute with EtOAc (2.5 L); and wash with water (3×5 L) and brine (2×2.5 L). Extract the combined aqueous phases with EtOAc (2.5 L). Combine the organic extracts, and dry over MgSO4. Concentrate the to dryness to give a yellow semi-solid. Slurry this solid with Et2O (2.5 L) for 3 hours; collect the solids by filtration; and air dry for 16 hours then in vacuo at 50° C. for a further 48 hours to give the title product as a fine free flowing white solid (568 g, 66% yield). 1H NMR (MeOD-d4, 500 MHz): δ 8.63 (s, 1H), 8.13 (s, 1H), 7.74 (d, 2H, J=8.1 Hz), 7.67 (d, 2H, J=8.1 Hz), 7.36 (t, 1H, J=54.2 Hz), 4.47 (s, 2H), 2.52-2.45 (m, 4H), 1.13 (d, 6H, J=6.8 Hz); MS (m/z) 496 (M+1).

reactant | 4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-amine | 1.63 mol, 395 g, 1 equiv | CC=1N=C(NC1C1=CC=C(C=C1)C(F)(F)F)N | C11H10F3N3
reactant | 2-(difluoromethyl)-5-{[(2-methylpropanoyl)amino]methyl}pyridine-3-carboxylic acid | 1.63 mol, 445.8 g, 1 equiv | FC(C1=NC=C(C=C1C(=O)O)CNC(C(C)C)=O)F | C12H14F2N2O3
reactant | DIPEA | 4.91 mol, 856 ml, 3 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.965 mol, 630 g, 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | EtOAc | 2.5 L | CCOC(=O)C | C4H8O2
solvent | Et2O | 2.5 L | CCOCC | C4H10O
solvent | DMF | 3.16 L | CN(C)C=O | C3H7NO
product | 2-(Difluoromethyl)-5-{[(2-methylpropanoyl)amino]methyl}-N-{4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}pyridine-3-carboxamide | FC(C1=NC=C(C=C1C(=O)NC=1NC(=C(N1)C)C1=CC=C(C=C1)C(F)(F)F)CNC(C(C)C)=O)F | C23H22F5N5O2
